US05665748
A mixture of 4-[4-[2-(1,3-dioxolan-2-yl) ethyl]phenoxyacetyl]-5-methyl-2-phenyloxazole (1.8 g), 2,4-oxazolidinedione (0.925 g), piperidine (0.12 g) and acetic acid (30 ml) was heated for 15 hours under reflux. The reaction mixture was concentrated under reduced pressure. To the concentrate was added a saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with chloroform. The chloroform layer was washed with water, dried (MgSO4), followed by distilling off the solvent. The oily residue was subjected to a silica gel column chromatography. From the fractions eluted with methanol-chloroform (1:30, v/v) was obtained 5-[3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)-2-oxoethoxy]phenyl]propylidene]-2,4-oxazolidinedione. This compound was dissolved in tetrahydrofuran (THF) (30 ml), to which was added palladium-carbon (5%, 0.3 g). The mixture was subjected to catalytic hydrogenation. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The oily residue was subjected to a silica gel column chromatography. From the fractions eluted with ethyl acetate - hexane (1:1, v/v), 5-[3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)-2-oxoethoxy]phenyl]propyl]-2,4-oxazolidinedione (0.32 g, 16%) was obtained as an oily product.

reactant | 4-[4-[2-(1,3-dioxolan-2-yl) ethyl]phenoxyacetyl]-5-methyl-2-phenyloxazole | 1.8 g | O1C(OCC1)CCC1=CC=C(OCC(=O)C=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C23H23NO5
reactant | 2,4-oxazolidinedione | 0.925 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | piperidine | 0.12 g | N1CCCCC1 | C5H11N
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-[3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)-2-oxoethoxy]phenyl]propylidene]-2,4-oxazolidinedione | CC1=C(N=C(O1)C1=CC=CC=C1)C(COC1=CC=C(C=C1)CCC=C1C(NC(O1)=O)=O)=O | C24H20N2O6
